US04671819
(c) 2-(3,3,3-Trifluoropropyl)-phenylsulfonylisocyanate
40.3 g of N-[2-(3,3,3-trifluoropropyl)-phenylsulfonyl]-N'-methylurea are suspended in 700 ml of chlorobenzene, and dried by the azeotropic distilling off of about 150 ml of solvent. There are then introduced at 120°-130° C. 71 g of phosgene in the course of 90 minutes. The yield after complete concentration of the formed solution by evaporation is 37.3 g of 2-(3,3,3-trifluoropropyl)-phenylsulfonylisocyanate in the form of yellowish oil, which can be directly further reacted.

reactant | N-[2-(3,3,3-trifluoropropyl)-phenylsulfonyl]-N'-methylurea | 40.3 g | FC(CCC1=C(C=CC=C1)S(=O)(=O)NC(=O)NC)(F)F | C11H13F3N2O3S
solvent | chlorobenzene | 700 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 2-(3,3,3-Trifluoropropyl)-phenylsulfonylisocyanate | FC(CCC1=C(C=CC=C1)S(=O)(=O)N=C=O)(F)F | C10H8F3NO3S
